US07129238B2
2-Fluoro-4-methoxybenzaldehyde was reacted according to general procedure A using n-propanol/dioxane as a solvent. The product of this reaction was subsequently coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-N-(4-cyano-benzyl)-2-(2-fluoro-4-methoxy-phenyl)-2-propoxy-acetamide. Light yellow oil. MS 357.2 ([M+H]+)

reactant | 2-Fluoro-4-methoxybenzaldehyde | FC1=C(C=O)C=CC(=C1)OC | C8H7FO2
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
reactant | n-propanol dioxane | C(CC)O.O1CCOCC1
product | (RS)-N-(4-cyano-benzyl)-2-(2-fluoro-4-methoxy-phenyl)-2-propoxy-acetamide | C(#N)C1=CC=C(CNC(C(OCCC)C2=C(C=C(C=C2)OC)F)=O)C=C1 | C20H21FN2O3
